US06281363B1
A solution of 0.077g of (E)-N-[3-benzyl-4(S)-(hydroxymethyl)-2,5-dioxo-1-imidazolidinyl]-2(R)-[1(S)-(benzyloxycarbamoyl)-4-phenyl-3-butenyl]-4-methylvaleramide in 10 ml of methanol was hydrogenated in the presence of 0.010 g of 10% palladium-on-carbon for 3 hours. The catalyst was removed by filtration and evaporation followed by trituration with diethyl ether gave 0.020 g of N-[3-benzyl-4(S)-(hydroxymethyl)-2,5-dioxo-1-imidazolidinyl]-2(R)-[1(S)-(hydroxycarbamoyl)-4-phenylbutyl]-4-methylvaleramide in the form of a white solid.

reactant | (E)-N-[3-benzyl-4(S)-(hydroxymethyl)-2,5-dioxo-1-imidazolidinyl]-2(R)-[1(S)-(benzyloxycarbamoyl)-4-phenyl-3-butenyl]-4-methylvaleramide | 0.077g | C(C1=CC=CC=C1)N1C(N(C([C@@H]1CO)=O)NC([C@H](CC(C)C)[C@H](C\C=C\C1=CC=CC=C1)C(NOCC1=CC=CC=C1)=O)=O)=O | C35H40N4O6
solvent | methanol | 10 ml | CO | CH4O
catalyst | palladium-on-carbon | 0.010 g | [Pd] | Pd
product | N-[3-benzyl-4(S)-(hydroxymethyl)-2,5-dioxo-1-imidazolidinyl]-2(R)-[1(S)-(hydroxycarbamoyl)-4-phenylbutyl]-4-methylvaleramide | 0.020 g | C(C1=CC=CC=C1)N1C(N(C([C@@H]1CO)=O)NC([C@H](CC(C)C)[C@H](CCCC1=CC=CC=C1)C(NO)=O)=O)=O | C28H36N4O6
